US04511392
2-(Isoxazol-5-yl)benzenesulfonamide
A solution of 37 g of 2-(isoxazol-5-yl)benzenesulfonyl chloride, prepared in Example 4, in 200 ml of tetrahydrofuran, was cooled in an ice-water bath while about 40 ml of concentrated aqueous ammonium hydroxide was added slowly at 10° to 30° C. The resulting suspension was stirred at room temperature for 4 hours, then the solvent was evaporated under reduced pressure. The residue was stirred in 150 ml of water for 0.5 hour, then filtered. The crude, wet solid was dissolved in tetrahydrofuran and dried over sodium sulfate. The solid was recrystallized from 2-propanol to give 20 g of the title compound; m.p. 132°-135° C.

reactant | 2-(isoxazol-5-yl)benzenesulfonyl chloride | 37 g | O1N=CC=C1C1=C(C=CC=C1)S(=O)(=O)Cl | C9H6ClNO3S
reactant | ammonium hydroxide | about 40 ml | [OH-].[NH4+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2-(Isoxazol-5-yl)benzenesulfonamide | 20 g | O1N=CC=C1C1=C(C=CC=C1)S(=O)(=O)N | C9H8N2O3S
